US07795267B2
1,1-Bis(3-fluorophenyl)-N-[(4-fluorophenyl)methyl]-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
1,1-Bis(3-fluorophenyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one (0.18 g, 0.55 mmol) was dissolved in tetrahydrofuran (5 mL). (4-Fluorophenyl)methyl isocyanate (0.15 g, 1.0 mmol) was added thereto, and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=50:1 to ethyl acetate) to obtain the title compound (0.25 g, yield 96%).

reactant | 1,1-Bis(3-fluorophenyl)-hexahydro-3H-oxazolo[3,4-a]pyrazin-3-one | 0.55 mmol, 0.18 g | FC=1C=C(C=CC1)C1(OC(N2C1CNCC2)=O)C2=CC(=CC=C2)F | C18H16F2N2O2
reactant | (4-Fluorophenyl)methyl isocyanate | 1.0 mmol, 0.15 g | FC1=CC=C(C=C1)CN=C=O | C8H6FNO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1,1-Bis(3-fluorophenyl)-N-[(4-fluorophenyl)methyl]-tetrahydro-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 0.25 g, yield 96% | FC=1C=C(C=CC1)C1(OC(N2C1CN(CC2)C(=O)NCC2=CC=C(C=C2)F)=O)C2=CC(=CC=C2)F | C26H22F3N3O3
